US04957928
38 g (0.2 mol) of 4-toluenesulfonyl chloride are added at room temperature, while stirring, to a solution of 37.1 g (0.18 mol) of 2,2-dimethyl-3-(2-hydroxyethyl)-chroman in 150 ml of pyridine, the slightly exothermic reaction being maintained at room temperature with an ice bath. The mixture is then stirred for 4 hours at room temperature. The reaction mixture is then poured onto ice-water and extracted with diethyl ether. The combined ethereal phases are washed three times using 150 ml of citric acid solution (5%) each time and three times using 150 ml of water each time, then dried over sodium sulfate and concentrated by evaporation, yielding 59.1 g (89% of the theoretical yield) of 2,2-dimethyl-3-[2-(4-toluenesulfonyloxy)-ethyl]-chroman in the form of a yellow oil which is further used in that form.

reactant | 4-toluenesulfonyl chloride | 0.2 mol, 38 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,2-dimethyl-3-(2-hydroxyethyl)-chroman | 0.18 mol, 37.1 g | CC1(OC2=CC=CC=C2CC1CCO)C | C13H18O2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-3-[2-(4-toluenesulfonyloxy)-ethyl]-chroman | CC1(OC2=CC=CC=C2CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C20H24O4S
